Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Iodinated Contrast- Oral and IV Dye
 
Attending: ___.
 
Chief Complaint:
weaknesss
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms ___ is a ___ yo F with history of stage 3 CKD due to IgA
nephropathy, hypertension, atrial fibrillation (on Xarelto), and
osteopenia who presented to the ED with garbled speech and
confusion.

Briefly, the patient was last known well at 9pm the night before
presentation when she ate dinner with her family and went to 
bed.
The patient reports that while eating dinner she was feeling
generalized weakness and if she was starting to come down with a
cold. She went to bed that night. This morning her family went 
to
work and patient continued to sleep . At 12:30pm the patients
daugther called the patient who answered and told her that she
was feeling tired, weak. The daughter noted that her mother's
speech was slightly slow and she sounded tired. She told the
patient to move from the chair to the bed. At 4pm, the patient's
grand-daughter called to check in with the patient. The patient
told her grand daugther that she continued to feel tired. At
4:15pm her son-in-law came home and found the patient on the
ground as she was trying to go from the chair to the bed. She 
was
awake, looking around , moving her arms and legs but was having
difficulty moving off her back to get to the bed. Her son-in-law
picked her up and sat her on the bed. He next called ___. The
patient was transported here for further eval. A code stroke was
called for ?left sided weakness and dysarthria. 

Received ceftriaxone prior to ___ arrival. 

In the ED, initial VS were:  T 103.0 105 147/69 28 99% RA   

Code stroke and neurologic exam revealed:
1 for dysarthria 
MS: alert, oriented to month and self, able to speak fluently,
some confusion with questioning and needed repeitition but would
ultimately asnwer correctly. Able to follow midine and
appendicular commands, naming and repeition intact. slight
dysarthria
CN: 4--2mm, EOMI, slight L facial droop but activates well 
tongue strong, good cough
Motor: ___ throughout, no drift
Cerebellar: intention tremor on ___ 

Labs showed significant leukocytosis to 28, ___ with Cr 1.8, and
negative flu. 

CT head showed no infarct, though was done as non-con because
patient had acute dyspnea during CT scan, thought to be a
reaction to the IV contrast agent. She was given solumedrol,
famotidine, Benadryl, and an Epipen, with resolution of her
symptoms. 

Neurology was consulted and felt that the patients had no acute
deficit and that her symptoms most likely represented
recrudescence from prior CVA. 
 
On arrival to the floor, patient shares she has had a dry cough
for the past 4 days with some chest congestion. Otherwise no
shortness of breath, abdominal pain, diarrhea, constipation,
dysuria, nausea, vomiting, skin lesions, shortness of breath.
Over all feels very well. She does not remember the full details
of this morning, but shares that when she woke up this morning
she had no control over her legs or her body.  
 
 

 
Past Medical History:
Stage 3 CKD due to IgA nephropathy
Hypertension
A-Fib (on Xarelto)
Osteopenia
GERD
Fatty liver(abn LFTs)
rectal adenoma and colon polyp
s/p hysterectomy

 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS:  97.5 PO137 / 68 L Lying 72 18 98 RA
GENERAL: NAD, some slowness to respond and process questions, 
but
shares it is because ___ is not her first language.  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva,
MMM  
NECK: supple, no LAD, no JVD, No nuchal rigidity  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles, upper airway congestion, 
course
breath sounds changes with cough   
ABDOMEN: nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing, or edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: warm and well perfused, no excoriations or lesions, no
rashes  

DISCHARGE PHYSICAL EXAM
VS:  98.4 PO 123 / 78 68 18 97 RA 
GENERAL: NAD, appears well, sitting comfortably on bed
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM  
NECK: supple
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales or rhonchi   
ABDOMEN: nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing, or edema  
NEURO: A&Ox3, CNII-XII intact, normal gait
 
Pertinent Results:
ADMISSION LABORATORY STUDIES
===================================
___ 05:30PM BLOOD WBC-28.3* RBC-4.50 Hgb-14.2 Hct-41.3 
MCV-92 MCH-31.6 MCHC-34.4 RDW-13.8 RDWSD-47.0* Plt ___
___ 08:20AM BLOOD Hypochr-NORMAL Anisocy-NORMAL 
Poiklo-NORMAL Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL
___ 05:30PM BLOOD ___ PTT-38.4* ___
___ 05:59AM BLOOD Glucose-225* UreaN-44* Creat-2.0* Na-143 
K-5.1 Cl-100 HCO3-21* AnGap-22*
___ 05:59AM BLOOD ALT-21 AST-42* LD(LDH)-443* AlkPhos-77 
TotBili-0.3
___ 05:30PM BLOOD CK(CPK)-280*
___ 05:59AM BLOOD Albumin-3.5 Calcium-9.3 Phos-3.9 Mg-2.2
___ 05:30PM BLOOD VitB12-584
___ 05:30PM BLOOD TSH-1.1
___ 05:30PM BLOOD Free T4-1.4
___ 08:20AM BLOOD ANCA-PND
___ 08:20AM BLOOD C3-152 C4-31
___ 05:42PM BLOOD Glucose-146* Na-138 K-4.1 Cl-98 
calHCO3-29

DISCHARGE LABORATORY STUDIES
===================================
___ 06:28AM BLOOD WBC-12.1* RBC-4.09 Hgb-12.6 Hct-38.9 
MCV-95 MCH-30.8 MCHC-32.4 RDW-14.3 RDWSD-49.6* Plt ___
___ 08:20AM BLOOD ___
___ 06:28AM BLOOD Glucose-94 UreaN-36* Creat-1.3* Na-145 
K-4.8 Cl-107 HCO3-27 AnGap-11

IMAGING
===================================
RENAL ULTRASOUND
IMPRESSION:  
Normal ultrasound appearance of the kidneys and bladder.  No 
hydronephrosis. 

CT HEAD
Please note that this examination was initially intended to be a 
CTA head and neck, however the patient felt her throat closing 
up and a code was called, which was responded to by the 
emergency department physicians. Consequently, only a 
noncontrast head CT and CT perfusion were obtained. 
There is no intracranial hemorrhage, or evidence of acute large 
territorial infarct. A well-circumscribed, rounded 7 mm 
structure adjacent to the falx is nonspecific, and could reflect 
a meningioma, but does not appear to be consistent with acute 
hemorrhage (03:20).   
CT perfusion demonstrates 0 mL cerebral blood flow or cerebral 
volume 
mismatch. 

CXR
IMPRESSION:    
No acute cardiopulmonary abnormality. 

 
Brief Hospital Course:
BRIEF SUMMARY:
___ w/ CKD III ___ IgA nephropathy), possible prior stroke over
___ years ago (residual mild L facial weakness), HTN, Afib
(Xarelto) presenting w/ generalized weakness and dysarthria 
after
being found on the ground, likely secondary to recrudescence of
prior deficit in setting of likely URI with course complicated 
by acute on chronic kidney injury.

#) WEAKNESS
#) DYSARTHRIA
Patient presented with mild dysarthria and weakness. On initial 
evaluation, patient only noted to have mild dysarthria and 
weakness resolved. CT head showed no acute large infarct or 
intracranial hemorrhage. Evaluated by neurology. Her transient 
dysarthria was thought to be due to recrudescence of prior 
neurologic deficit in the setting of acute illness, and resolved 
during hospitalization.

#) VIRAL UPPER RESPIRATORY INFECTION/LEUKOCYTOSIS
Patient presented with cold-like symptoms and found to have a 
fever and leukocytosis ___ range)on admission. Thought to be 
due to a viral upper respiratory infection. Treated 
symptomatically and antibiotics were held. Resolved during 
admission, leukocytosis improving prior to discharge. 

#) ACUTE ON CHRONIC KIDNEY INJURY
Patient felt to have acute kidney injury, with a creatinine of 
1.8, increased from a baseline of 1.4. Thought to be due to 
pre-renal azotemia and received intravenous fluids versus flare 
of IgA nephropathy in the setting of viral URI. Urine sediment 
did not show any active casts, just several nondysmorphic RBCs. 
Renal ultrasound did not show evidence of obstruction. Patient 
received fluids, and home torsemide and losartan were sent. C3 
and C4 were normal. ANCA pending on discharge. Creatinine 
improved to 1.3 on discharge. Patient scheduled for outpatient 
follow up with nephrology.

#) ANAPHYLAXIS
On admission, patient received IV contrast for CT scan and 
subsequently developed sensation of throat closing in and hives. 
Received epipen and Benadryl with resolution and no further 
symptoms. CT contrast added to allergy list.

CHRONIC ISSUES
==============
#) Afib: continued xarelto and metoprolol
#) Hematuria: chronic, likely related to IgA nephropathy

TRANSITIONAL ISSUES
================================
#) Patient scheduled for outpatient follow up with nephrology on 
___ and can have repeat BMP at that time. Need to follow 
up ANCA (pending on discharge)
#) Rivaroxaban reduced during admission given kidney function. 
Reassess GFR, and adjust rivaroxban dosing as needed
#) Outpatient follow up of hematuria
#) Incidental finding: CT head showed a well-circumscribed, 
rounded 7 mm structure adjacent to the falx is nonspecific, and 
could reflect a meningioma, but does not appear to be consistent 
with acute hemorrhage 
#) Please add iodinated contrast to allergy list (anaphylaxis)

#CONTACT: Name of health care proxy: ___
Relationship: Daughter
Phone number: ___

>30 minutes in patient care and coordination of discharge 
___
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. amLODIPine 5 mg PO DAILY 
2. Losartan Potassium 100 mg PO DAILY 
3. Metoprolol Succinate XL 50 mg PO DAILY 
4. Rivaroxaban 20 mg PO DAILY 
5. Calcium 500 + D (D3) (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -125 unit oral daily 
6. Torsemide 10 mg PO DAILY 
7. Multi Complete with Iron (multivitamin-iron-folic acid) 
___ mg-mcg oral DAILY 
8. Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild 

 
Discharge Medications:
1.  Rivaroxaban 15 mg PO DINNER 
RX *rivaroxaban [___] 15 mg 1 tablet(s) by mouth at bedtime 
Disp #*30 Tablet Refills:*0 
2.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild  
3.  amLODIPine 5 mg PO DAILY  
4.  Calcium 500 + D (D3) (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -125 unit oral daily  
5.  Losartan Potassium 100 mg PO DAILY  
6.  Metoprolol Succinate XL 50 mg PO DAILY  
7.  Multi Complete with Iron (multivitamin-iron-folic acid) 
___ mg-mcg oral DAILY  
8.  Torsemide 10 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY
- weakness, likely secondary to recrudescence of prior 
neurologic deficits
- viral upper respiratory infection
- Acute on chronic kidney injury
- anaphylaxis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

WHY YOU WERE ADMITTED TO THE HOSPITAL:
- You were admitted to the hospital because of your weakness
- You had a fever, likely from a cold
- You were found to have kidney injury
 
WHAT WAS DONE WHILE YOU WERE IN THE HOSPITAL: 
- You were given fluids, and your kidney injury improved 
- You improved considerably and were ready to leave the hospital 
 

WHAT SHOULD YOU DO WHEN YOU LEAVE THE HOSPITAL:  
- Please follow up with your primary care doctor and other 
health care providers (see below)  
- Please take all of your medications as prescribed (see below). 
 
- Seek medical attention if you have fevers, chills, decreased 
urination or other symptoms of concern.  

Sincerely,  
Your ___ Care Team 
 
 
Followup Instructions:
___